US05654343
In 100 ml of DMF was dissolved 5 g of 2-isopropyl-6-methoxy-1-naphthol, and a solution of 4.03 g of N-bromosuccinimide in DMF (50 ml) was added under ice-cooling. The mixture was stirred under ice-cooling for 3 hours. The reaction mixture was then diluted with water and extracted with ethyl acetate and the organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting crude product was purified by silica gel column chromatography (eluent:diethyl ether:n-hexane:chloroform=10:50:1) to provide 6.1 g of 4-bromo-2-isopropyl-6-methoxy-1-naphthol. m.p. 81.5°-83.5° C.

reactant | 2-isopropyl-6-methoxy-1-naphthol | 5 g | C(C)(C)C1=C(C2=CC=C(C=C2C=C1)OC)O | C14H16O2
reactant | N-bromosuccinimide | 4.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2-isopropyl-6-methoxy-1-naphthol | 6.1 g | BrC1=CC(=C(C2=CC=C(C=C12)OC)O)C(C)C | C14H15BrO2
